US04851526
2-[[(Cyclohexylmethyl)amino]methyl]-1,3-propanediol
In a manner similar to Preparation 8, react cyclohexanecarboxaldehyde with 2-aminomethyl-1,3-propanediol to obtain the title compound.

reactant | cyclohexanecarboxaldehyde | C1(CCCCC1)C=O | C7H12O
reactant | 2-aminomethyl-1,3-propanediol | NCC(CO)CO | C4H11NO2
product | 2-[[(Cyclohexylmethyl)amino]methyl]-1,3-propanediol | C1(CCCCC1)CNCC(CO)CO | C11H23NO2
